US07589072B2
N,N-Bis-Boc-guanidine
Guanidine hydrochloride (4 g, 42 mmol) and 4N NaOH (42 ml, 0.1 mol) were dissolved in 1,4-dioxane (80 ml) and cooled to 0° C. Di-tert-butyl-dicarbonate (20 g, 92.1 mol) was added thereto and warmed to room temperature, followed by stirring the mixture for 18 hours. The solvent was evaporated off until the volume thereof became ⅓, and then, water added thereto. The resultant was extracted with ethyl acetate, and the extract was washed successively with 10% citric acid, H2O and saturated NaCl, dried over MgSO4, and concentrated. The concentrate was purified using column chromatography (CH2Cl2:MeOH=20:1) to obtain the title compound (6.47 g).

reactant | Guanidine hydrochloride | 42 mmol, 4 g | Cl.NC(=N)N
reactant | NaOH | 0.1 mol, 4N, 42 ml | [OH-].[Na+]
reactant | Di-tert-butyl-dicarbonate | 92.1 mol, 20 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | N,N-Bis-Boc-guanidine | 6.47 g | C(=O)(OC(C)(C)C)N(C(=N)N)C(=O)OC(C)(C)C | C11H21N3O4
